US07727988B2
3-(2,4-Dimethoxy-pyrimidin-5-yl)-pyridazine (Prep120)
2,4-Dimethoxy-pyrimidine-5-boronic acid (2.05 g, 11.21 mmol) was dissolved in degassed n-PrOH (80 ml) and then 3-iodo-pyridazine (Prep 119, 2.1 g, 10.19 mmol), Na2CO3 (3.24 g, 30.57 mmol), PPh3 (890 mg, 3.40 mmol) and Pd(OAc)2 (180 mg, 0.8 mmol) were added. The suspension was stirred at reflux for 5 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase washed with brine, dried (Na2SO4) and evaporated. The residue was triturated with iPrOH to afford 750 mg of the title compound as a white powder (34% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 11.21 mmol, 2.05 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 3-iodo-pyridazine | 10.19 mmol, 2.1 g | IC=1N=NC=CC1 | C4H3IN2
reactant | Na2CO3 | 30.57 mmol, 3.24 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 3.40 mmol, 890 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 80 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.8 mmol, 180 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2,4-Dimethoxy-pyrimidin-5-yl)-pyridazine | 750 mg, 34% yield | COC1=NC=C(C(=N1)OC)C=1N=NC=CC1 | C10H10N4O2
